* PEX produced on Mo 14. Sep 19:34:18 CEST 2026 using scripts/sak-pex.sh with m=3 and s=1 (extresist threshold=10000 mOhm, minres=1000 mOhm, mindelay=1 ps)
* NGSPICE file created from transmission_gate_pex.ext - technology: ihp-sg13cmos5l

.subckt transmission_gate_pex vctrl vin vout nvctrl VDD VSS
X0 vin nvctrl vout VDD sg13_hv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=1u
X1 vin vctrl vout VSS.t3 sg13_hv_nmos ad=0.38p pd=2.38u as=0.38p ps=2.38u w=2u l=1u
X2 vin vctrl vout VSS.t11 sg13_hv_nmos ad=0.38p pd=2.38u as=0.38p ps=2.38u w=2u l=1u
X3 vin nvctrl vout VDD sg13_hv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=1u
X4 vout vctrl vin VSS.t12 sg13_hv_nmos ad=0.38p pd=2.38u as=0.38p ps=2.38u w=2u l=1u
X5 vin nvctrl vout VDD sg13_hv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=1u
X6 vin nvctrl vout VDD sg13_hv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=1u
X7 vout nvctrl vin VDD sg13_hv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=1u
X8 vout vctrl vin VSS.t18 sg13_hv_nmos ad=0.38p pd=2.38u as=0.38p ps=2.38u w=2u l=1u
X9 vin vctrl vout VSS.t19 sg13_hv_nmos ad=0.68p pd=4.68u as=0.38p ps=2.38u w=2u l=1u
X10 vin nvctrl vout VDD sg13_hv_pmos ad=1.7p pd=10.68u as=0.95p ps=5.38u w=5u l=1u
X11 vout vctrl vin VSS.t8 sg13_hv_nmos ad=0.38p pd=2.38u as=0.38p ps=2.38u w=2u l=1u
X12 vin vctrl vout VSS.t9 sg13_hv_nmos ad=0.38p pd=2.38u as=0.38p ps=2.38u w=2u l=1u
X13 vin nvctrl vout VDD sg13_hv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=1u
X14 vout nvctrl vin VDD sg13_hv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=1u
X15 vout nvctrl vin VDD sg13_hv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=1u
X16 vin vctrl vout VSS.t15 sg13_hv_nmos ad=0.38p pd=2.38u as=0.38p ps=2.38u w=2u l=1u
X17 vout vctrl vin VSS.t16 sg13_hv_nmos ad=0.38p pd=2.38u as=0.38p ps=2.38u w=2u l=1u
X18 vin vctrl vout VSS.t17 sg13_hv_nmos ad=0.38p pd=2.38u as=0.38p ps=2.38u w=2u l=1u
X19 vout nvctrl vin VDD sg13_hv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=1u
X20 vout nvctrl vin VDD sg13_hv_pmos ad=0.95p pd=5.38u as=1.7p ps=10.68u w=5u l=1u
X21 vout vctrl vin VSS.t0 sg13_hv_nmos ad=0.38p pd=2.38u as=0.68p ps=4.68u w=2u l=1u
X22 vin vctrl vout VSS.t5 sg13_hv_nmos ad=0.38p pd=2.38u as=0.38p ps=2.38u w=2u l=1u
X23 vout vctrl vin VSS.t6 sg13_hv_nmos ad=0.38p pd=2.38u as=0.38p ps=2.38u w=2u l=1u
X24 vout nvctrl vin VDD sg13_hv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=1u
X25 vin vctrl vout VSS.t1 sg13_hv_nmos ad=0.38p pd=2.38u as=0.38p ps=2.38u w=2u l=1u
X26 vout vctrl vin VSS.t2 sg13_hv_nmos ad=0.38p pd=2.38u as=0.38p ps=2.38u w=2u l=1u
X27 vin nvctrl vout VDD sg13_hv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=1u
X28 vout nvctrl vin VDD sg13_hv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=1u
X29 vin vctrl vout VSS.t13 sg13_hv_nmos ad=0.38p pd=2.38u as=0.38p ps=2.38u w=2u l=1u
X30 vin nvctrl vout VDD sg13_hv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=1u
X31 vout vctrl vin VSS.t14 sg13_hv_nmos ad=0.38p pd=2.38u as=0.38p ps=2.38u w=2u l=1u
X32 vout nvctrl vin VDD sg13_hv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=1u
X33 vin nvctrl vout VDD sg13_hv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=1u
X34 vin vctrl vout VSS.t7 sg13_hv_nmos ad=0.38p pd=2.38u as=0.38p ps=2.38u w=2u l=1u
X35 vout nvctrl vin VDD sg13_hv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=1u
X36 vout vctrl vin VSS.t10 sg13_hv_nmos ad=0.38p pd=2.38u as=0.38p ps=2.38u w=2u l=1u
X37 vin nvctrl vout VDD sg13_hv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=1u
X38 vout vctrl vin VSS.t4 sg13_hv_nmos ad=0.38p pd=2.38u as=0.38p ps=2.38u w=2u l=1u
X39 vout nvctrl vin VDD sg13_hv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=1u
R0 VSS.t8 VSS 225.785
R1 VSS.t10 VSS 225.775
R2 VSS VSS.t11 225.785
R3 VSS.t7 VSS 212.596
R4 VSS.t6 VSS 199.411
R5 VSS.t5 VSS 186.225
R6 VSS.t4 VSS 173.037
R7 VSS.t3 VSS 159.851
R8 VSS VSS.t16 159.851
R9 VSS.t2 VSS 146.663
R10 VSS.t1 VSS 133.477
R11 VSS VSS.t18 133.476
R12 VSS VSS.t0 60.1465
R13 VSS.t19 VSS 60.1477
R14 VSS.t18 VSS 107.103
R15 VSS VSS.t2 93.9162
R16 VSS.t17 VSS 93.9165
R17 VSS.t16 VSS 80.7297
R18 VSS VSS.t4 67.5426
R19 VSS.t15 VSS 67.5426
R20 VSS VSS.t5 54.3558
R21 VSS.t14 VSS 54.356
R22 VSS VSS.t6 41.1697
R23 VSS.t13 VSS 41.1682
R24 VSS VSS.t3 80.7304
R25 VSS.t12 VSS 27.9824
R26 VSS.t12 VSS 212.599
R27 VSS VSS.t9 225.804
R28 VSS VSS.t1 107.103
R29 VSS VSS.t13 199.411
R30 VSS VSS.t15 173.037
R31 VSS VSS.t17 146.663
R32 VSS VSS.t8 14.7957
R33 VSS.t9 VSS 14.7967
R34 VSS.t14 VSS 186.225
R35 VSS.t7 VSS 27.9824
R36 VSS VSS.t10 14.8211
R37 VSS.t11 VSS 14.797
C0 nvctrl vout 6.47994f
C1 nvctrl vctrl 0.39957f
C2 vout vin 18.3508f
C3 vctrl vin 3.61979f
C4 nvctrl VDD 16.2169f
C5 VDD vin 3.73893f
C6 vout vctrl 3.22358f
C7 nvctrl vin 6.01855f
C8 VDD vout 2.15356f
C9 VDD vctrl 0.16944f
C10 vout VSS 9.15679f
C11 vin VSS 10.49333f
C12 VDD VSS 3.98134f
.ends

