* PEX produced on Mi 16. Sep 19:42:38 CEST 2026 using scripts/sak-pex.sh with m=3 and s=1 (extresist threshold=10000 mOhm, minres=1000 mOhm, mindelay=1 ps)
* NGSPICE file created from transmission_gate_pex.ext - technology: ihp-sg13cmos5l

.subckt transmission_gate_pex vctrl vin vout nvctrl VDD VSS
X0 vin vctrl vout VSS.t1 sg13_hv_nmos ad=0.38p pd=2.38u as=0.38p ps=2.38u w=2u l=0.45u
X1 vin nvctrl vout VDD sg13_hv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=0.45u
X2 vout vctrl vin VSS.t12 sg13_hv_nmos ad=0.38p pd=2.38u as=0.38p ps=2.38u w=2u l=0.45u
X3 vout nvctrl vin VDD sg13_hv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=0.45u
X4 vout vctrl vin VSS.t18 sg13_hv_nmos ad=0.38p pd=2.38u as=0.38p ps=2.38u w=2u l=0.45u
X5 vin nvctrl vout VDD sg13_hv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=0.45u
X6 vout nvctrl vin VDD sg13_hv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=0.45u
X7 vin vctrl vout VSS.t9 sg13_hv_nmos ad=0.38p pd=2.38u as=0.38p ps=2.38u w=2u l=0.45u
X8 vin vctrl vout VSS.t15 sg13_hv_nmos ad=0.38p pd=2.38u as=0.38p ps=2.38u w=2u l=0.45u
X9 vout nvctrl vin VDD sg13_hv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=0.45u
X10 vin nvctrl vout VDD sg13_hv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=0.45u
X11 vout vctrl vin VSS.t2 sg13_hv_nmos ad=0.38p pd=2.38u as=0.38p ps=2.38u w=2u l=0.45u
X12 vout nvctrl vin VDD sg13_hv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=0.45u
X13 vout vctrl vin VSS.t4 sg13_hv_nmos ad=0.38p pd=2.38u as=0.38p ps=2.38u w=2u l=0.45u
X14 vin nvctrl vout VDD sg13_hv_pmos ad=1.7p pd=10.68u as=0.95p ps=5.38u w=5u l=0.45u
X15 vout vctrl vin VSS.t10 sg13_hv_nmos ad=0.38p pd=2.38u as=0.38p ps=2.38u w=2u l=0.45u
X16 vout nvctrl vin VDD sg13_hv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=0.45u
X17 vout nvctrl vin VDD sg13_hv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=0.45u
X18 vout vctrl vin VSS.t16 sg13_hv_nmos ad=0.38p pd=2.38u as=0.38p ps=2.38u w=2u l=0.45u
X19 vin nvctrl vout VDD sg13_hv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=0.45u
X20 vout nvctrl vin VDD sg13_hv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=0.45u
X21 vin vctrl vout VSS.t7 sg13_hv_nmos ad=0.38p pd=2.38u as=0.38p ps=2.38u w=2u l=0.45u
X22 vin vctrl vout VSS.t5 sg13_hv_nmos ad=0.38p pd=2.38u as=0.38p ps=2.38u w=2u l=0.45u
X23 vin vctrl vout VSS.t13 sg13_hv_nmos ad=0.38p pd=2.38u as=0.38p ps=2.38u w=2u l=0.45u
X24 vin nvctrl vout VDD sg13_hv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=0.45u
X25 vout nvctrl vin VDD sg13_hv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=0.45u
X26 vin vctrl vout VSS.t11 sg13_hv_nmos ad=0.38p pd=2.38u as=0.38p ps=2.38u w=2u l=0.45u
X27 vin nvctrl vout VDD sg13_hv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=0.45u
X28 vout vctrl vin VSS.t0 sg13_hv_nmos ad=0.38p pd=2.38u as=0.68p ps=4.68u w=2u l=0.45u
X29 vin vctrl vout VSS.t19 sg13_hv_nmos ad=0.68p pd=4.68u as=0.38p ps=2.38u w=2u l=0.45u
X30 vin vctrl vout VSS.t17 sg13_hv_nmos ad=0.38p pd=2.38u as=0.38p ps=2.38u w=2u l=0.45u
X31 vin nvctrl vout VDD sg13_hv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=0.45u
X32 vout vctrl vin VSS.t8 sg13_hv_nmos ad=0.38p pd=2.38u as=0.38p ps=2.38u w=2u l=0.45u
X33 vin nvctrl vout VDD sg13_hv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=0.45u
X34 vin nvctrl vout VDD sg13_hv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=0.45u
X35 vin vctrl vout VSS.t3 sg13_hv_nmos ad=0.38p pd=2.38u as=0.38p ps=2.38u w=2u l=0.45u
X36 vout vctrl vin VSS.t14 sg13_hv_nmos ad=0.38p pd=2.38u as=0.38p ps=2.38u w=2u l=0.45u
X37 vout nvctrl vin VDD sg13_hv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=0.45u
X38 vout vctrl vin VSS.t6 sg13_hv_nmos ad=0.38p pd=2.38u as=0.38p ps=2.38u w=2u l=0.45u
X39 vout nvctrl vin VDD sg13_hv_pmos ad=0.95p pd=5.38u as=1.7p ps=10.68u w=5u l=0.45u
R0 VSS.n18 VSS.t3 228.781
R1 VSS.t16 VSS.n14 228.781
R2 VSS.t5 VSS.n11 209.001
R3 VSS.t18 VSS.n8 202.407
R4 VSS.t7 VSS.n6 182.629
R5 VSS.t11 VSS.n1 182.627
R6 VSS.t0 VSS.n13 163.148
R7 VSS.t9 VSS.n20 156.254
R8 VSS.t13 VSS.n12 156.254
R9 VSS.t2 VSS.n3 136.475
R10 VSS.n8 VSS.t17 136.475
R11 VSS.t15 VSS.n19 129.881
R12 VSS.t4 VSS.n18 110.1
R13 VSS.n14 VSS.t15 110.1
R14 VSS.t17 VSS.n5 103.796
R15 VSS.t6 VSS.n9 84.0159
R16 VSS.n2 VSS.t9 83.9758
R17 VSS.t10 VSS.n2 83.9751
R18 VSS.t19 VSS.n15 52.5049
R19 VSS.t8 VSS.n17 57.6422
R20 VSS.t12 VSS.n16 57.6422
R21 VSS.t1 VSS.n10 37.862
R22 VSS.n15 VSS.t18 37.8654
R23 VSS.n9 VSS.t5 31.2686
R24 VSS.t14 VSS.n4 31.2685
R25 VSS.n8 VSS.n0 0.30094
R26 VSS.n14 VSS.n0 0.30094
R27 VSS.n2 VSS.n0 0.176477
R28 VSS.n6 VSS.n0 0.30094
R29 VSS.t6 VSS.n6 156.254
R30 VSS.n11 VSS.n0 0.30094
R31 VSS.t4 VSS.n11 129.881
R32 VSS.n18 VSS.n0 0.30094
R33 VSS.n3 VSS.n0 0.30094
R34 VSS.t1 VSS.n3 202.407
R35 VSS.n7 VSS.n0 0.0119713
R36 VSS.n17 VSS.n0 0.0119713
R37 VSS.n16 VSS.n0 0.0119713
R38 VSS.n4 VSS.n0 0.0119713
R39 VSS.n4 VSS.t13 84.0151
R40 VSS.n16 VSS.t11 57.6414
R41 VSS.n20 VSS.t8 182.629
R42 VSS.n1 VSS.t10 156.255
R43 VSS.n12 VSS.t12 182.629
R44 VSS.n19 VSS.t14 209.001
R45 VSS.n10 VSS.t0 77.4225
R46 VSS.n7 VSS.t2 103.796
R47 VSS.n17 VSS.t7 57.6414
R48 VSS.n23 VSS.n0 8.48362
R49 VSS.n21 VSS.n22 1.74115
R50 VSS.n21 VSS.n0 0.00112938
R51 VSS.t3 VSS.n7 11.4883
R52 VSS.n5 VSS.t16 11.4884
R53 VSS.n15 VSS.n0 0.00818938
R54 VSS.n5 VSS.n0 0.0115971
R55 VSS.n9 VSS.n0 0.0115971
R56 VSS.n10 VSS.n0 0.0115971
R57 VSS.n20 VSS.n0 0.30094
R58 VSS.n1 VSS.n0 0.30094
R59 VSS.n12 VSS.n0 0.30094
R60 VSS.n19 VSS.n0 0.30094
R61 VSS.n21 VSS.n24 1.56976
R62 VSS.n23 VSS.n22 0.346657
R63 VSS VSS.n24 0.0555
R64 VSS.n24 VSS.n23 0.0357621
R65 VSS.n13 VSS.n0 0.00100206
R66 VSS.n22 VSS.n13 4.18061
C0 VDD vctrl 0.0876f
C1 nvctrl vin 3.68704f
C2 VDD nvctrl 8.50343f
C3 nvctrl vctrl 0.17981f
C4 vout vin 27.2863f
C5 VDD vout 1.39719f
C6 vctrl vout 2.29962f
C7 nvctrl vout 3.96151f
C8 VDD vin 2.65452f
C9 vctrl vin 2.45087f
C10 vout VSS 5.70458f
C11 vin VSS 6.42443f
C12 VDD VSS 2.76335f
.ends

